US06476026B1
A solution comprised of N,N-diisopropylamine (3.97 mL, 22.8 mmol) in dry THF (57 mL) was cooled to −78° C. under nitrogen and then solutions of n-butyl lithium in hexanes (14.25 mL, 22.8 mmol) and ethyl benzoylaminoacetate (2.37 g, 11.4 mmol) in dry THF (23 mL) were added dropwise sequentially. The mixture was stirred for 1 hour and then a solution comprised of 2,6-dichlorobenzyl bromide (1.87 g, 11.4 mmol) in dry THF (2 mL) was added dropwise. The mixture was stirred for 1 hour at −78° C. and then for 30 minutes while allowing to warm. The mixture then was quenched with water (8 mL) and extracted with ethyl acetate (2×54 mL). The combined extracts were washed with 1M hydrochloric acid (1×27 mL) and saturated sodium chloride solution (1×27 mL), dried (Na2SO4) and concentrated on a rotary evaporator. Product was purified from the residue by flash column (silica gel, 10:90 to 50:50 v/v EtOAc-hexane) to provide crude ethyl 2-benzoylamino-3-(2,6-dichlorophenyl)propionate. The propionate ester was treated with lithium hydroxide (118.8 mg, 4.96 mmol) in ethanol (12 mL) and water (50 mL) for 15 hours. The mixture was then diluted with 1M hydrochloric acid (12 mL) and ethyl acetate (24 mL). The aqueous layer was separated and extracted with ethyl acetate (2×4 mL). The combined organic layers were washed with saturated sodium chloride solution (25 mL), dried (Na2SO4), filtered and concentrated on a rotary evaporator to provide 2-benzoylamino-3-(2,6-dichlorophenyl)propionic acid.

reactant | N,N-diisopropylamine | 22.8 mmol, 3.97 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl benzoylaminoacetate | 11.4 mmol, 2.37 g | C(C1=CC=CC=C1)(=O)NCC(=O)OCC | C11H13NO3
reactant | 2,6-dichlorobenzyl bromide | 11.4 mmol, 1.87 g | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | THF | 57 mL | C1CCOC1 | C4H8O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | ethyl 2-benzoylamino-3-(2,6-dichlorophenyl)propionate | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC)CC1=C(C=CC=C1Cl)Cl | C18H17Cl2NO3
